Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute on chronic SFA occlusion
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 We are seeing this ___ year old female in consultation for
left SFA disease without concern of acute lower extremity
ischemia.

She has medical history pertinent for Atrial fibrillation not on
anticoagulation, and bilateral lower extremity DVTs (first
episode in ___ in the setting of immobilization after ankle
fracture and second episode in the setting of tamoxifen)
currently maintained on xarelto. 

She presented to ___ with complains of acute left leg swelling
associated with calf tenderness. She endorses this episode
resembles prior episodes of acute DVT. At outside institution,
NIAS revealed  absence of flow at left proximal and mid SFA with
reconstitution at distal SFA. Right ABI/TBI of 0.88 and 0.70,
respectively. Left ABI/TBI of 0.86 and 0.71, respectively. It is
unclear to me whether this patient has claudication. she has a
history of osteoarthritis with prior left hip replacement and
also affecting her knees. She denies any cramps to her legs
bilaterally with exertion, though she seems not a full active
person. Yet, when performing her daily activities such as 
grocery
shopping she thinks is able to walk better with the help of a
rolling cart. Her pain is not reproducible. Denies any tissue
loss, fissures. 

Upon presentation, she is in no acute distress. VSS. Upon chest
auscultation her heart rate is irregular. Lungs are clear.
Abdomen soft with no pulsatile masses. She has palpable femoral
pulses bilaterally. I was not able to feel any pulse distally,
but she has signals on both AT/DP and ___. Her feet are cold
bilaterally with ok perfusion. No mottling. No motor/sensory
deficit.
 
Past Medical History:
 Breast cancer s/p lumpectomy followed by chemoradiation and 
maintained initially on Aromatase inhibitors then switched to 
Tamoxifen. She also has history of DVT as above. In ___ she was 
on Coumadin for 6 months. Since ___ she has been on Xarelto.
 
Social History:
___
Family History:
non-contributory

 
Physical Exam:
Physical Exam:
Vitals: 98.3, 67, 174/84, 14, 96% RA.
 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: She has palpable femoral pulses bilaterally. I was not able
to feel any pulse distally, but she has signals on both AT/DP 
and
___. Her feet are cold bilaterally with ok perfusion. No 
mottling.
No motor/sensory deficit. 
Left leg with minimal edema. No signs of phlegmasia.
 
Pertinent Results:
___ 10:15PM BLOOD WBC-9.6 RBC-3.80* Hgb-13.0 Hct-38.1 
MCV-100* MCH-34.2* MCHC-34.1 RDW-14.1 RDWSD-51.1* Plt ___
___ 05:53AM BLOOD PTT-150*
___ 10:15PM BLOOD Plt ___
___ 10:15PM BLOOD ___ PTT-34.7 ___
___ 10:15PM BLOOD Glucose-124* UreaN-15 Creat-0.8 Na-137 
K-3.6 Cl-100 HCO3-23 AnGap-14
 
Brief Hospital Course:
Ms. ___ is a ___ female with history of DVT, A. 
fib, on Xarelto, who presented to an outside hospital on ___ 
for worsening left lower extremity swelling and was transferred 
for vascular surgery evaluation. 

On examination she had symmetric pulses bilaterally and there 
was no evidence of motor/sensory dysfunction. CTA demonstrated 
complete occlusion of the left femoral artery with distal 
reconstitution in the lower right thigh. They also saw 
three-vessel left lower leg runoff and two vessel right lower 
leg runoff
(right posterior tibial artery not seen). ___ ultrasound showed 
no evidence of deep venous thrombosis in the visualized left 
lower extremity veins. There was no concern for a threatened 
limb and she was admitted to the vascular surgery service for 
full systemic heparin and serial vascular and neurologic exams. 
Today the patients feels well and reports improvement in her ___ 
swelling. She has distal signals by doppler.  On the day of 
discharge she had no pain in her LLE and the swelling had gone 
down. She is stable for be discharged home on her home meds and 
will be advised to continue wearing compression stockings and 
return to the hospital if she has worsening symptoms.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Diltiazem Extended-Release 120 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
4. propranolol 120 mg oral DAILY 
5. Rivaroxaban 20 mg PO DAILY 
6. Triamterene-HCTZ (37.5/25) 2 CAP PO DAILY 
7. Niacin 500 mg PO DAILY 
8. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Diltiazem Extended-Release 120 mg PO DAILY  
4.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
5.  Niacin 500 mg PO DAILY  
6.  Propranolol 120 mg oral DAILY  
7.  Rivaroxaban 20 mg PO DAILY  
8.  Triamterene-HCTZ (37.5/25) 2 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left lower extremity swelling

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You are now ready to be discharged from the 
hospital.  You did not have any procedures done while with us at 
___, you were brought in for worsening left lower extremity 
swelling.  You were examined by the vascular surgery team and 
found to not have an acute reason to stay in the hospital.  The 
swelling in your leg has decreased. Your exam was normal, and 
you had no problems with sensation or moving your leg.  We want 
you to continue on your home xarelto medication and you can 
follow up with your provider.  Please follow the recommendations 
below to ensure a speedy and uneventful recovery.  

Please go to the emergency room if you have any of the following 
signs:
- acute pain in your leg
- leg turns "blue"
- you notice new sudden onset numbness and tingling in the leg
- new onset swelling in your leg

If you have any questions please call the vascular surgery 
clinic ___
 
Followup Instructions:
___